US07449466B2
Production Example 2 was repeated except that 1-(4-methoxyphenyl)-4-phenethylpiperazine was replaced with 1-(4-chlorobenzenesulfonyl)-4-(2,5-difluoro-4-methoxyphenyl)-piperazine (395 mg). The resulting crude product was purified on silica gel column chromatography (eluent, hexane: ethyl acetate=2:1) to provide 1-(4-chlorophenylsulfonyl)-4-(2,5-difluorophenyl)-piperazine (322 mg).

reactant | 1-(4-methoxyphenyl)-4-phenethylpiperazine | COC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1 | C19H24N2O
reactant | 1-(4-chlorobenzenesulfonyl)-4-(2,5-difluoro-4-methoxyphenyl)-piperazine | 395 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=C(C(=C1)F)OC)F | C17H17ClF2N2O3S
product | 1-(4-chlorophenylsulfonyl)-4-(2,5-difluorophenyl)-piperazine | 322 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC(=C1)F)F | C16H15ClF2N2O2S
